US07834048B2
1.3 1-[(1R,5S,6R)-6-(4-Nitro-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl]-propan-1-one
1.0 g of 1-((1R,5S,6R)-6-Phenyl-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one (4.36 mmol) were dissolved in 12 ml of nitromethane. At −8° C., a mixture of 0.3 ml of nitric acid (65%, 4.36 mmol) and 4.6 ml of sulphuric acid (95%) in 0.76 ml of water were added dropwise within 45 minutes. Stirring at −8° C. was continued for 30 minutes, before 20 ml of ice water were added and the aqueous phase was extracted twice with diethyl ether, the combined organic layers were dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure to yield 1.27 g of the product as a mixture of 2:1 para versus ortho substituted product which was used without further separation.

reactant | 1-((1R,5S,6R)-6-Phenyl-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one | 4.36 mmol, 1.0 g | C1(=CC=CC=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C15H19NO
reactant | nitric acid | 4.36 mmol, 0.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 4.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
solvent | water | 0.76 ml | O | H2O
product | 1-[(1R,5S,6R)-6-(4-Nitro-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl]-propan-1-one | 1.27 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C15H18N2O3
